US07741322B2
6-Methoxy-2-methyl-3-[2-(2-oxopyrrolidin-1-yl)ethyl]-4-phenylisoquinolin-1(2H)-one
To a solution of 3-(2-aminoethyl)-6-methoxy-2-methyl-4-phenylisoquinolin-1(2H)-one hydrochloride (125 mg, 0.362 mmol) in 15 mL of dichloromethane was added triethylamine (0.202 mL, 1.45 mmol), followed by 4-chlorobutanoyl chloride (0.045 mL, 0.40 mmol). After 45 minutes, the mixture was concentrated in vacuo. Tetrahydrofuran was added (15 mL), and the solution was cooled to 0° C. Sodium hydride was added (58 mg, 60% dispersion in mineral oil, 1.45 mmol). The reaction mixture was stirred at 0° C. for 30 minutes, at room temperature for 16 hours, then at 50° C. for 2 hours. The solution was partitioned between EtOAc and saturated NaHCO3 solution, and the organic layer was washed with brine, dried over Na2SO4, filtered, and concentrated in vacuo. The crude residue was purified by preparative reversed phase HPLC to provide the titled product. Proton NMR for the product was consistent with the titled compound. ESI+MS: 377.27 [M+H]+.

reactant | 3-(2-aminoethyl)-6-methoxy-2-methyl-4-phenylisoquinolin-1(2H)-one hydrochloride | 0.362 mmol, 125 mg | Cl.NCCC=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)OC)=O)C
reactant | triethylamine | 1.45 mmol, 0.202 mL | C(C)N(CC)CC | C6H15N
reactant | 4-chlorobutanoyl chloride | 0.40 mmol, 0.045 mL | ClCCCC(=O)Cl | C4H6Cl2O
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | 6-Methoxy-2-methyl-3-[2-(2-oxopyrrolidin-1-yl)ethyl]-4-phenylisoquinolin-1(2H)-one | COC=1C=C2C(=C(N(C(C2=CC1)=O)C)CCN1C(CCC1)=O)C1=CC=CC=C1 | C23H24N2O3
